US04221585
N-[(2,6-dimethoxypyrimidin-4-yl)aminocarbonyl]-2-methylbenzenesulfonamide
To a stirred mixture of 2.40 g of 4-amino-2,6-dimethoxypyrimidine in 40 ml methylene chloride at ambient temperature and pressure was slowly added 3.0 g of 2-methylbenzenesulfonylisocyanate. The reaction was stirred 40 minutes, filtered, and the solid thereby obtained was washed with a small amount of acetonitrile; yield 4.0 g, m.p. 174°-175°, NMR (DMSO-d6) relative to tetramethylsilane: δ 2.77, S, area 30; δ 4.05, S, area 60; δ 6.85, S, area 89; δ 7.7-8.6, multiplets, area 45; δ 10.00, S, area 9.

reactant | 4-amino-2,6-dimethoxypyrimidine | 2.40 g | NC1=NC(=NC(=C1)OC)OC | C6H9N3O2
reactant | 2-methylbenzenesulfonylisocyanate | 3.0 g | CC1=C(C=CC=C1)S(=O)(=O)N=C=O | C8H7NO3S
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | N-[(2,6-dimethoxypyrimidin-4-yl)aminocarbonyl]-2-methylbenzenesulfonamide | COC1=NC(=CC(=N1)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C)OC | C14H16N4O5S
